US06579879B2
To a solution containing 5-chloro-2-mercapto-3-methyl benzofuran (10 mmol, 1.98 g and 3-chloro-6-methoxy pyridazine (10 mmol, 1.44 g) in dimethylformamide (DMF, 10 mL) was added potassium carbonate (20 mmol, 2.76 g) and the reaction mixture was stirred at room temperature for 3 hours. The reaction mixture was quenched with H2O (200 mL), the precipitated yellow solid was collected and the solid was purified by silica gel chromatography (eluent: hexanes:EtOAc::9:1) to obtain 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-pyridazine (93%, 2.87 g); mp 131° C.-134° C.

reactant | 5-chloro-2-mercapto-3-methyl benzofuran | ClC=1C=CC2=C(C(=C(O2)S)C)C1 | C9H7ClOS
reactant | 3-chloro-6-methoxy pyridazine | 10 mmol, 1.44 g | ClC=1N=NC(=CC1)OC | C5H5ClN2O
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-(5-chloro-3-methyl-benzofuran-2-sulfenyl)-pyridazine | 2.87 g, 93% | ClC=1C=CC2=C(C(=C(O2)SC2=CC=CN=N2)C)C1 | C13H9ClN2OS
